US05318966
313 g (1.45 mol) of 1,3,4,5-tetrahydro-6-methoxy-2H-benzo[e]indol-2-one were suspended in 3 l of methylene chloride. After the addition of 690 ml (4.33 mol) of triethylsilane 500 ml (6.53 mol) of trifluoroacetic acid were slowly added dropwise at 0°, whereupon the mixture was stirred at room temperature for 3 hours, then cooled with an ice-ethanol bath, made alkaline with about 830 ml of 28% sodium hydroxide solution, poured into water and extracted with methylene chloride. The organic phase was washed with saturated sodium chloride solution and dried with sodium sulphate. After distillation of the solvent in a vacuum the residue was suspended in ice-cold ether. The solid was filtered off, rinsed with ether and dried. There were obtained 210 g (67%) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one as white crystals with m.p. 192°-194°.

reactant | 1,3,4,5-tetrahydro-6-methoxy-2H-benzo[e]indol-2-one | 1.45 mol, 313 g | COC1=CC=CC=2C=3CC(NC3CCC21)=O | C13H13NO2
reactant | triethylsilane | 4.33 mol, 690 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | about 830 ml | [OH-].[Na+]
solvent | methylene chloride | 3 l | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 210 g, 67% | COC1=CC=CC=2[C@H]3CC(N[C@H]3CCC21)=O | C13H15NO2
